US05958942
i) Synthesis of 1,2-dihydro-3-methyl-1-[4-(propan-1-ylsulfonamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 1.22 g (5.0 mmol) of 1-[4-(amino) butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one and 1.1 ml (7.9 mmol) of triethylamine in 40 ml of methylene chloride was added, while stirring under ice-cooling, 0.73 ml (6.5 mmol) of propan-1-ylsulfonyl chloride. The mixture was stirred for 0.5 hour at room temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogencarbonate, which was then dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was recrystallized from methylene chloride-methanol-ether to give 1.313 g of the desired compound (75.0%, pale brown crystals), m.p.150.0-151.0° C.

reactant | 1-[4-(amino) butan-1-yl]-1,2-dihydro-3-methyl-1,4,7b-triazacyclopent[cd]inden-2-one | 5.0 mmol, 1.22 g | NCCCCN1C(C=2N3C(C=CC=C13)=NC2C)=O | C13H16N4O
reactant | triethylamine | 7.9 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | propan-1-ylsulfonyl chloride | 6.5 mmol, 0.73 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1,2-dihydro-3-methyl-1-[4-(propan-1-ylsulfonamido)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 1.313 g, 75.0% | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNS(=O)(=O)CCC)=O | C16H22N4O3S
